US06878706B1
To a stirred solution of the above 2-(2,2-dimethyl-propylamino)-1-morpholin-4-yl-ethanone (0.18 g, 0.8 mmol) in THF (2.0 mL), a solution of bromoacetyl bromide (0.15 mL, 1.6mmol) in THF (2.0 mL) was added, dropwise at −78° C., under nitrogen. After 3 h the reaction was concentrated and the resulting residue was diluted with methylene chloride and saturated NaHCO3. The layers were separated and the aqueous phase was extracted with methylene chloride. The combined organic layers were dried (MgSO4), filtered and concentrated to give the crude product. Purification via silica gel flash chromatography, eluting with EtOAc, flow rate 30 mL/min, gave 0.10 g (36%) of 2-bromo-N-(2,2-dimethyl-propyl)-N-(2-morpholin-4-yl-2-oxo-ethyl)-acetamide.

reactant | 2-(2,2-dimethyl-propylamino)-1-morpholin-4-yl-ethanone | 0.8 mmol, 0.18 g | CC(CNCC(=O)N1CCOCC1)(C)C | C11H22N2O2
reactant | bromoacetyl bromide | 1.6mmol, 0.15 mL | BrCC(=O)Br | C2H2Br2O
solvent | THF | 2.0 mL | C1CCOC1 | C4H8O
solvent | THF | 2.0 mL | C1CCOC1 | C4H8O
product | 2-bromo-N-(2,2-dimethyl-propyl)-N-(2-morpholin-4-yl-2-oxo-ethyl)-acetamide | 0.10 g, 36% | BrCC(=O)N(CC(=O)N1CCOCC1)CC(C)(C)C | C13H23BrN2O3
